US08809342B2
Step G: (+/−)-ethyl N-({6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]pyridin-3-yl}carbonyl)-beta-alaninate
To a mixture of ethyl 3-aminopropionate hydrochloride (487 mg, 4.15 mmol), crude (+/−)-6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinic acid (948 mg, 2.08 mmol), hydroxybenzotriazole hydrate (318 mg, 2.08 mmol), and triethylamine (1.16 ml, 8.31 mmol) in dichloromethane (21 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (442 mg, 2.28 mmol). The reaction was stirred for 12 hours at ambient temperature. The reaction was diluted with water and the organic layer was separated. The aqueous layer was extracted with dichloromethane (2×) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified via ISCO MPLC (SiO2, 0-100% ethyl acetate in heptane) to yield the product. The enantiomers were separated by chiral SFC to afford the two products (Isomer 1=50 mg, 5% and isomer 2=50 mg, 5%) as solids. Column: Chiralcel OJ-H. Dimensions: 10 mm×250 cm. Mobile Phase: 70/30 CO2/methanol. Flow Rate: 10 mL/min. Modifier: none. Isomer 1: Retention time: 2.37 minutes. Isomer 2: Retention time: 2.95 minutes. 1H NMR (400 MHz, CDCl3, δ): 8.76 (s, 2H), 8.53 (d, J=8.2 Hz, 2H), 8.43 (d, J=2.0 Hz, 1H), 7.78 (dd, J=8.7, 2.2 Hz, 1H), 7.71 (d, J=8.2 Hz, 2H), 6.71 (t, J=5.8 Hz, 1H), 6.30-6.36 (m, 1H), 5.84 (br. s., 1H), 4.68 (t, J=6.9 Hz, 1H), 4.13 (q, J=6.9 Hz, 2H), 3.65 (q, J=5.9 Hz, 2H), 2.58 (t, J=5.8 Hz, 2H), 1.95 (d, J=12.3 Hz, 1H), 1.56-1.85 (m, 6H), 1.23 (t, J=7.0 Hz, 3H), 1.04-1.20 (m, 4H). MS (M+1): 556.4.

reactant | ethyl 3-aminopropionate hydrochloride | 4.15 mmol, 487 mg | Cl.NCCC(=O)OCC
reactant | (+/−)-6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinic acid | 2.08 mmol, 948 mg | C1(CCCCC1)C(C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)O)C=C1 | C24H23F3N4O2
reactant | hydroxybenzotriazole hydrate | 2.08 mmol, 318 mg | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 8.31 mmol, 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.28 mmol, 442 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | CO2 methanol | C(=O)=O.CO
solvent | dichloromethane | 21 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (+/−)-ethyl N-({6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]pyridin-3-yl}carbonyl)-beta-alaninate | C1(CCCCC1)C(C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)NC1=CC=C(C=N1)C(=O)NCCC(=O)OCC | C29H32F3N5O3
